US07425641B2
b. 3-cyano-N-[4-(benzoylamino)-benzyl]-benzamide
A solution of 0.6 g (4.2 mmol) of benzoylchloride in 10 ml of methylene chloride is added dropwise to a solution of 1 g (4 mmol) of 3-cyano-N-(4-amino-benzyl)-benzamide and 0.6 g (6 mmol) of triethylamine in 30 ml of methylene chloride at ambient temperature. After 8 hours at ambient temperature the product which has crystallised out is dissolved in methylene chloride and methanol. After extraction with water the combined organic extracts are dried and evaporated down.

reactant | benzoylchloride | 4.2 mmol, 0.6 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3-cyano-N-(4-amino-benzyl)-benzamide | 4 mmol, 1 g | C(#N)C=1C=C(C(=O)NCC2=CC=C(C=C2)N)C=CC1 | C15H13N3O
reactant | triethylamine | 6 mmol, 0.6 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-cyano-N-[4-(benzoylamino)-benzyl]-benzamide | C(#N)C=1C=C(C(=O)NCC2=CC=C(C=C2)NC(C2=CC=CC=C2)=O)C=CC1 | C22H17N3O2
